Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin / tetanus immune globulin
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of HTN, post-herpetic neuralgia, who presents 
with 10 days of cough and shortness of breath. 

She reports cough productive of white sputum x 10 days. This has 
been associated with dyspneic on exertion, abdominal pain, 
decreased PO intake. She denies fevers, chills, chest pain, 
nausea, vomiting. She denies prior history of CHF, asthma, or 
heart disease. She was seen at her PCP's office earlier today, 
and given the extreme difficulty she was having with breathing, 
she was sent to the ED. ROS is also positive for generalized 
abdominal pain for ___ weeks, associated with diarrhea for one 
patient. Patient states that this is because she was afraid of 
becoming constipated, and took too many laxatives at the same 
time. 

-Difficulty word finding - per daughter - increased over past 
week, ?some mild confusion as well.  No slurred speech.

In the ED, initial vitals were:  9  98.4  118  125/65  24  90% 
RA 
Initial exam was notable for wheezing and speaking in three word 
sentences.
Labs were notable for: WBC 9.9 with 81.5% PMNs, Cr 0.8, BNP 866, 
flu swab negative, VBG 7.39/53 with lactate 1.9.
Imaging: CXR performed showing tatchy opacity at the posterior 
inferior chest.
Pt was given: albuterol and ipratropium nebs, 1g Ceftriaxone, 
azithromycin 500mg, 1L NS
Vitals prior to transfer: 91, 97/52, 22, 97% 3L 
 
On the floor, patient states that her breathing is improved, but 
continues to feel very short of breath and not able to complete 
sentences.
 
Review of systems:  See HPI
 
Past Medical History:
-HTN
-post-herpetic neuralgia
-constipation
-chronic back pain
-diverticulosis

 
Social History:
___
Family History:
Not pertinent to this admission
 
Physical Exam:
===============================
EXAM ON ADMISSION
===============================
Vital Signs: 97.4, 95, 112/61, 20, 97%3L 
General: Thin, Alert, oriented, not able to complete long 
sentences
HEENT: MMM
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Diffuse rhonchi and wheezes bilaterally 
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

===============================
EXAM ON DISCHARGE
===============================
Vital Signs: 97.9, 95, 111/53, 20, 98% 3L
General: Thin, Alert, oriented, NAD
HEENT: MMM
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Diffuse rhonchi and wheezes bilaterally 
Abdomen: Soft, non-tender, non-distended
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

 
Pertinent Results:
========================
LABS ON ADMISSION
========================
___ 12:05PM BLOOD WBC-9.9 RBC-5.12 Hgb-14.8 Hct-45.6* 
MCV-89 MCH-28.9 MCHC-32.5 RDW-13.3 RDWSD-43.6 Plt ___
___ 12:05PM BLOOD Neuts-81.5* Lymphs-10.5* Monos-6.5 
Eos-0.6* Baso-0.3 Im ___ AbsNeut-8.09* AbsLymp-1.04* 
AbsMono-0.64 AbsEos-0.06 AbsBaso-0.03
___ 12:05PM BLOOD ___ PTT-27.0 ___
___ 12:05PM BLOOD Glucose-137* UreaN-24* Creat-0.8 Na-138 
K-3.9 Cl-97 HCO3-28 AnGap-17
___ 12:05PM BLOOD ALT-14 AST-17 AlkPhos-104 TotBili-0.6
___ 12:05PM BLOOD proBNP-866*
___ 12:05PM BLOOD cTropnT-<0.01
___ 12:05PM BLOOD Albumin-4.2 Calcium-10.1 Phos-3.2 Mg-2.3
___ 12:21PM BLOOD Lactate-1.9

========================
LABS ON DISCHARGE
========================
___ 06:55AM BLOOD WBC-5.6 RBC-3.88* Hgb-11.4# Hct-34.8# 
MCV-90 MCH-29.4 MCHC-32.8 RDW-13.6 RDWSD-44.3 Plt ___
___ 07:42AM BLOOD Glucose-81 UreaN-21* Creat-0.7 Na-139 
K-4.1 Cl-106 HCO3-26 AnGap-11
___ 07:42AM BLOOD Calcium-8.9 Phos-2.8 Mg-2.1

========================
MICROBIOLOGY
========================
___ Blood cultures x2 - No growth

========================
IMAGING/STUDIES
========================
___ CXR - 
Patchy opacity at the posterior inferior chest, best seen on the 
lateral view, worrisome for pneumonia.

___ CTA - 
1. No evidence of pulmonary embolism or aortic abnormality.
2. Severe centrilobular emphysema.
3. Small to moderate bilateral pleural effusions with adjacent 
atelectasis.
4. Minimal peripheral opacity in the left upper lobe, not well 
assessed due to motion but potentially due to scarring, 
infection is less likely.
5. Multiple chronic appearing thoracic compression deformities.
 
Brief Hospital Course:
___ with history of HTN, post-herpetic neuralgia, who presents 
with cough x 10 days, with leukocytosis and CXR findings 
consistent with community acquired pneumonia:

# Community Acquired Pneumonia: Patient presented with dyspnea, 
hypoxia, leukocytosis, with CXR showing an infiltrate. A 
troponin was negative, and though her BNP was slightly elevated, 
she had no signs of heart failure on exam. She lives in the 
community and does not have risk factors for resistant 
organisms. She was started on azithromycin and ceftriaxone, and 
clinically improved. However, she continued to require 
supplemental O2 nasal cannula, and at times was found to be 
mildly tachycardic, and therefore patient underwent CTA to 
evaluate for PE, which was found to be negative for PE, but did 
show severe emphysematous changes. The patient was discharged 
home with supplemental O2 and levaquin to complete a 7 day 
course of antibiotics. 
   Ms. ___ was treated for COPD exacerbation with steroids 
and nebs as well. 

# Hypertension: The patient has a history of hypertension, but 
was found to have pressures in the ___ and 100s on admission. 
Her blood pressures improved with fluid resuscitation, however 
her pressures continued to be <120, and therefore her home 
antihypertensives were held, to be restarted at the discretion 
of her PCP.
 
# Post-Herpatic Neuralgia: Continue home gabapentin.

 ============================
Transitional Issues
============================
[] patient will complete a 5 day course of prednisone 40mg daily 
(___).
[] patient was discharged on levofloxacin to complete a 7 day 
course of antibiotics (___).
[] patient was discharged on home O2
[] Patient was found to be borderline hypotensive in the 
hospital, likely secondary to poor PO intake and infection. Her 
antihypertensives were held, to be restarted at the discretion 
of her PCP.
[] CT scan showed evidence of emphysema, and patient was 
discharged on Spiriva and albuterol inhalers. Recommend further 
workup with PFTs and consideration of additional therapy. 
[] Patient's daughter reports that patient's back pain has 
lately been significantly worse. ___ benefit from discussion of 
pain management or further workup.
[] Ms. ___ was clear that she would like to be DNR. However, 
she stated that she feels unsure about whether she would ever 
want to be intubated. This could be discussed further in the 
outpatient setting. 
# CODE: DNR, unsure if would want intubation
# CONTACT: ___ ___, ___ (___) 
Daughter ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO QHS 
2. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
3. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing 

 
Discharge Medications:
1. Gabapentin 300 mg PO QHS 
2. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing 
3. PredniSONE 40 mg PO DAILY Duration: 5 Days 
RX *prednisone [Deltasone] 20 mg 2 tablet(s) by mouth daily Disp 
#*2 Tablet Refills:*0
4. Levofloxacin 500 mg PO Q48H Duration: 4 Days 
Please take one tab on ___ and ___. 
RX *levofloxacin [Levaquin] 500 mg 1 tablet(s) by mouth once 
Disp #*1 Tablet Refills:*0
5. Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva with HandiHaler] 18 mcg 1 cap IH 
daily Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- community acquired pneumonia
- emphysema

Secondary Diagnosis:
- hypertension
- post-herpatic neuralgia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to be a part of your care team at ___ 
___. You were admitted with difficulty 
breathing, and we found that you have pneumonia. We gave you 
antibiotics, steroids, and breathing treatments, and you started 
to feel better. 

When you go home, you will need to complete a course of 
antibiotics and prednisone. Please see below for more details 
about your medications.

We also recommend you follow up with your primary care doctor. 
Unfortunately, it is the weekend, and we are unable to schedule 
this for you. Please call your doctor's office to schedule an 
appointment in the next week. 

Again, it was very nice to meet you, and we hope you get back to 
dancing soon!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___